US05610154
1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-4-[4-(2-methoxy-phenyl)- piperazin-1-yl]-2-phenyl-butan-1-one
A mixture of 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid (4.0 g, 11.3 mmole), desmethyltropane (1.7 g, 15.3 mmole, prepared from tropane by the method used by R. A. Olofson et. al., J. Org. Chem., 1984, 49(11), 2081, for the conversion of O-acetyltropine to O-acetyldesmethyltropine), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.2 g, 11.3 mmole) and triethylamine (0.19.8 mmole) in methylene chloride (25 mL) was stirred at ambient temperature for 48 hr. The mixture was poured into 1 N sodium hydroxide (100 mL) and extracted with ethyl acetate (3×100 mL). The combined ethyl acetate layer was washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to give crude product. Purification of this material by column chromatoghaphy (silica gel with 1% ammonia in ethyl acetate as eluant) followed by the treatment with 1.1 equivalent of 1N hydrogen chloride in ether gave 2.5 g of the title compound as the hydrochloride hemihydrate, m.p. 225°-228° C. (dec.).

reactant | 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid | 11.3 mmole, 4.0 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)O)C1=CC=CC=C1 | C21H26N2O3
reactant | desmethyltropane | [C@H]12CCC[C@H](CC1)N2 | C7H13N
reactant | tropane | [C@H]12CCC[C@H](CC1)N2C | C8H15N
reactant | O-acetyltropine | CC(=O)OC1C[C@H]2CC[C@@H](C1)N2C | C10H17NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.3 mmole, 2.2 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydroxide | 1 N, 100 mL | [OH-].[Na+]
reactant | hydrogen chloride | 1N, 1.1 equivalent | Cl | ClH
reactant | hydrochloride hemihydrate | O.Cl.Cl
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-4-[4-(2-methoxy-phenyl)- piperazin-1-yl]-2-phenyl-butan-1-one | 2.5 g | C12CCCC(CC1)N2C(C(CCN2CCN(CC2)C2=C(C=CC=C2)OC)C2=CC=CC=C2)=O | C28H37N3O2
